US07985755B2
4-(2,4-Diaminoquinazolin-5-yl)piperazine-1-carboxylic acid tert-butyl ester (Method A).
In a reaction vessel, 4-(2-cyano-3-fluorophenyl)piperazine-1-carboxylic acid tert-butyl ester (613.7 mg; 2 mmol) and guanidine carbonate (360.6 mg; 2 mmol) were suspended in 2 mL DMA. The reaction mixture was heated to 145° C. for 22 hours. The mixture was cooled to room temperature and 4 mL of water was added and stirred for 15 minutes. The solid was collected by vacuum filtration and washed with water and ethyl acetate and dried under vacuum to yield 278.4 mg (40% yield) of the title compound.

reactant | 4-(2-cyano-3-fluorophenyl)piperazine-1-carboxylic acid tert-butyl ester | 2 mmol, 613.7 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1)F)C#N | C16H20FN3O2
reactant | guanidine carbonate | 2 mmol, 360.6 mg | C(O)(O)=O.NC(=N)N
reactant | water | 4 mL | O | H2O
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | 4-(2,4-Diaminoquinazolin-5-yl)piperazine-1-carboxylic acid tert-butyl ester | 278.4 mg, 40% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C17H24N6O2
